US05948795
N,N-Dimethyl-2-(2,4-dimethoxyphenyl)-2-hydroxythioacetamide
A 110 mL THF solution of lithium diisopropylamide (LDA) ( 80 mmol) was generated from a 1.6 M hexane solution of n-butyllithium (50 mL, 80 mmol) and diisopropylamine ( 11.2 mL, 80 mmol) at -10° C., then cooled to -78° C. A 50 mL solution of 2,4-dimethoxybenzaldehyde (12 g, 72 mmol) and N,N-dimethylthioformamide (6.8 mL, 80 mmol) was cooled to 0° C. and added to the -78° C. LDA solution at a rate keeping the temperature less than -70° C. The reaction mixture was stirred at -75° C. for 2.5 hours, allowed to warm to 0° C., quenched with saturated aqueous NH4Cl, and extracted with EtOAc three times. The EtOAc extracts were combined, washed with brine, dried (Na2SO4), concentrated, triturated with Et2O/ pet. ether, filtered, and dried in vacuo to give 8.4 g(46% yield) of product: mp 139-140° C.; 1H NMR (CDCl3) d 3.05 (s, 3H, NCH3), 3.50 (s, 3H, NCH3), 3.80 (s, 3H, OCH3), 3.89 (s, 3H, OCH3), 5.19-5.21 (d, 1H, J=7 Hz, OH), 5.72-5.74 (d, 1H, J=7 Hz, CH), 6.43-6.47 (m, 2H, ArH), 7.24(s, 1H, ArH); MS(FD) 255(M+). Anal. Calcd for C12H17NO3S: C, 56.45; H, 6.71; N, 5.49. Found: C, 56.64; H, 6.49; N, 5.59.

reactant | lithium diisopropylamide | 80 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 80 mmol, 50 mL | C(CCC)[Li]
reactant | diisopropylamine | 80 mmol, 11.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2,4-dimethoxybenzaldehyde | 72 mmol, 12 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | N,N-dimethylthioformamide | 80 mmol, 6.8 mL | CN(C=S)C | C3H7NS
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | N,N-Dimethyl-2-(2,4-dimethoxyphenyl)-2-hydroxythioacetamide | 8.4 g, 46% yield | CN(C(C(O)C1=C(C=C(C=C1)OC)OC)=S)C | C12H17NO3S
